spice
* List of Components
* MOSFETs
* MB1, M1, M2, M3, M4 (PMOS)
* M5, M6, M7, M8, M9, M10 (NMOS)
* Current Sources
* I1, I2, I3
* Netlist
MB1 3 4 5 B VBIAS4 PMOS
M1 3 2 6 B VIN+ PMOS
M2 3 2 7 B VIN- PMOS
? Missing component
M4 5 8 10 B CMFB PMOS
M5 9 3 3 B VBIAS0 NMOS
M6 10 3 3 B VBIAS0 NMOS
M7 VOUT- 11 12 B VBIAS2 NMOS
M8 VOUT+ 13 12 B VBIAS2 NMOS
M9 12 14 15 B VBIAS3 NMOS
M10 12 14 15 B VBIAS3 NMOS
I1 2 16 I1 2
I2 11 17 I2 3
I3 18 19 I3 4
I3' 20 21 I3 1
VDD 14 0 DC VDD
VSS 5 0 DC VSS
VCMFB 8 0 DC VCMFB
.END
